USRE039128E1
Step 1. (R)-Ethyl 1-ethylcarbamoylpiperidine-3-carboxylate
(R)-Ethylnipecotate (J. Org. Chem., 56, 1991, 1166-1170) (3.0 g, 0.019 mole) in dry dichloromethane (50 ml) was cooled to 0° C. under argon. Triethylamine (3.19 ml, 0.023 mole) was added, followed dropwise by ethyl chloroformate (1.83 ml, 0.019 mole) in dry dichloromethane (6 ml) and the mixture was stirred overnight at room temperature. The reaction mixture was diluted with dichloromethane, washed with water, dried (magnesium sulfate) and evaporated in vacuo to afford the title compound 3.45 g (79%) as a colourless oil; 1H NMR (CDCl3) 1.28 (6H, t, J 7 Hz), 1.38-1.82 (3H, m), 2.00-2.15 (1H, m), 2.38-2.55 (1H, m), 2.77-3.13 (2H, m), 3.91-4.04 (1H, m), 4.07-4.35 (5H, m).

reactant | (R)-Ethylnipecotate | 0.019 mole, 3.0 g | C(C)OC([C@H]1CNCCC1)=O | C8H15NO2
reactant | Triethylamine | 0.023 mole, 3.19 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.019 mole, 1.83 ml | ClC(=O)OCC | C3H5ClO2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
product | (R)-Ethyl 1-ethylcarbamoylpiperidine-3-carboxylate | 3.45 g, 79% | C(C)NC(=O)N1C[C@@H](CCC1)C(=O)OCC | C11H20N2O3
